US09302991B2
<Step-2>: 2-methyl-6-pivalamido-N-((6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methyl)isonicotinamide (Example-480)
The title compound is prepared from 2-methyl-6-pivalamidoisonicotinic acid (30 mg, 0.06 mmol, Step-1) and (6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methanamine hydrochloride (15 mg, 0.06 mmol) by the similar manner in Example 2.

reactant | 2-methyl-6-pivalamidoisonicotinic acid | 0.06 mmol, 30 mg | CC=1C=C(C(=O)O)C=C(N1)NC(C(C)(C)C)=O | C12H16N2O3
reactant | (6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methanamine hydrochloride | 0.06 mmol, 15 mg | Cl.FC(COC1=CC=C(C=N1)CN)(F)F
product | 2-methyl-6-pivalamido-N-((6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methyl)isonicotinamide | CC=1C=C(C(=O)NCC=2C=NC(=CC2)OCC(F)(F)F)C=C(N1)NC(C(C)(C)C)=O | C20H23F3N4O3
